US05200110
100 g (0.53 mol) of 4-bromo-fluoroaniline (manufactured by Aldorich Co.) and 70.8 g (0.79 mol) of copper (I) cyanide was refluxed in N-methyl-2-pyrrolidinone for three hours while stirring. The solution was cooled and a solution of 130 cm3 of ethylene diamine and 130 cm3 of water was added drop-wise while stirring. The solution was extracted three times with 200 cm3 of chloroform and sufficiently washed with water. The chloroform was distilled off and the residue was distilled under reduced pressure (150° C./9 mmHg) to yield 55 g (0.40 mol) of 4-amino-3-fluorobenzonitrile.

reactant | 4-bromo-fluoroaniline | 0.53 mol, 100 g | BrC1=CC=C(NF)C=C1 | C6H5BrFN
reactant | copper (I) cyanide | 0.79 mol, 70.8 g | [Cu]C#N
reactant | ethylene diamine | 130 cm3 | C(CN)N | C2H8N2
reactant | water | 130 cm3 | O | H2O
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 4-amino-3-fluorobenzonitrile | 0.40 mol, 55 g | NC1=C(C=C(C#N)C=C1)F | C7H5FN2
